US04634768
Synthesis of methyl 3-methylflavone-8-carboxylate
Into a pressure reactor were placed 1.5 g (4.57 m mole) of methyl 6-chloro-3-methylflavone-8-carboxylate, 1.8 g (14.2 m mole) of sodium acetate, 150 ml of isopropanol and 0.075 g of 5% palladium-carbon. After the atmosphere was replaced with hydrogen gas, reaction was conducted at 70° C. under a pressure of 5.0 kg/cm2G for 6 hours. Thereafter the contents were withdrawn from the reactor and were subjected to filtration while being hot to remove the catalyst. The solvent was recovered from the filtrate to provide 1.1 g (82.1%) of white needle-like crystals which melt at 162.2° to 164.8° C. The crystals were recrystallized from alcohol to obtain a product having a melting point of 166.4° to 168.2° C. The product was found identical in melting point with the compound prepared by the conventional method. When the product of this example and the compound prepared by the conventional method were melted together, the melting point was not lower than that of the product of this example.

reactant | methyl 6-chloro-3-methylflavone-8-carboxylate | 1.5 g | ClC=1C=C2C(C(=C(OC2=C(C1)C(=O)OC)C1=CC=CC=C1)C)=O | C18H13ClO4
reactant | sodium acetate | 1.8 g | C(C)(=O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 0.075 g | [C].[Pd]
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
product | methyl 3-methylflavone-8-carboxylate | 1.1 g, 82.1% | CC1=C(OC2=C(C=CC=C2C1=O)C(=O)OC)C1=CC=CC=C1 | C18H14O4
